### PR TITLE
refactor(Topology/Algebra/Module/WeakDual): Clean up

### PR DESCRIPTION
**Pull request by mcdoll**
- Move `Dual` and `dualPairing` lower in the import-hierachy
- deduplicate `dualPairing`
- Bundle continuity statements to `CLM`s.
- Make `WeakDual` and `WeakSpace` reducible
- Remove `refine'` in favor of `refine`

---

Cleaning up `Analysis/NormedSpace/WeakDual` will be done in a second PR

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Module/WeakDual.lean [hunk 1]
```diff
@@ -140,19 +149,18 @@ theorem tendsto_iff_forall_eval_tendsto {l : Filter α} {f : α → WeakBilin B}
 /-- Addition in `WeakBilin B` is continuous. -/
 instance instContinuousAdd [ContinuousAdd 𝕜] : ContinuousAdd (WeakBilin B) := by
   refine' ⟨continuous_induced_rng.2 _⟩
-  refine'
-    cast (congr_arg _ _)
-      (((coeFn_continuous B).comp continuous_fst).add ((coeFn_continuous B).comp continuous_snd))
+  refine' cast (congr_arg _ _)
```
Comment (grunweg) [inline Mathlib/Topology/Algebra/Module/WeakDual.lean:152]: While you're touching this line, would you like to replace `refine'` by `refine`?
There [seems to be](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/refine.20vs.20refine') consensus for this in principle (there are just too many occurrences to rewrite them all by hand).

File: Mathlib/MeasureTheory/Measure/FiniteMeasure.lean [hunk 2]
```diff
@@ -450,7 +450,7 @@ def toWeakDualBCNN (μ : FiniteMeasure Ω) : WeakDual ℝ≥0 (Ω →ᵇ ℝ≥0
   cont := μ.testAgainstNN_lipschitz.continuous
 #align measure_theory.finite_measure.to_weak_dual_bcnn MeasureTheory.FiniteMeasure.toWeakDualBCNN
 
-@[simp]
+--@[simp]
```
Comment (kkytola) [inline Mathlib/MeasureTheory/Measure/FiniteMeasure.lean:453]:
```suggestion
```

File: Mathlib/Topology/Algebra/Module/Dual.lean [hunk 3]
```diff
@@ -0,0 +1,69 @@
...
+variable {𝕜 E F ι : Type*}
+
+section CommSemiring
+
+variable [CommSemiring 𝕜] [TopologicalSpace 𝕜] [ContinuousAdd 𝕜] [AddCommMonoid E]
+    [Module 𝕜 E] [TopologicalSpace E] [ContinuousConstSMul 𝕜 𝕜]
+
+variable (𝕜 E) in
+/-- The topological dual of a topological vector space `E`. -/
+abbrev Dual : Type _ := E →L[𝕜] 𝕜
```
Comment (kkytola) [inline Mathlib/Topology/Algebra/Module/Dual.lean:36]: Is there a consensus that `Dual` with this meaning can be in the root namespace? Currently it is in `NormedSpace.Dual`. It seems quite clear indeed that `NormedSpace` namespace is not the best choice anymore (not general enough), but in my opinion this PR's proposal to change directly to the root namespace requires a wide agreement, because dual might be standard terminology in other contexts as well. (I would personally be in favor, though.)

File: Mathlib/Topology/Algebra/Module/Dual.lean [hunk 4]
```diff
@@ -0,0 +1,69 @@
+/-
+Copyright (c) 2024 Moritz Doll. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Moritz Doll
+-/
+import Mathlib.LinearAlgebra.SesquilinearForm
+import Mathlib.Topology.Algebra.Module.Basic
+
+/-!
+# Topological dual
```
Comment (kkytola) [inline Mathlib/Topology/Algebra/Module/Dual.lean:10]: I think the module docstring of this new file should briefly explain the meaning of the concept of dual (however standard) as well as the notation `->L[k]` (which is not standard in mathematics, only standard in parts of Mathlib). The docstring of the file [`NormedSpace.Dual`](https://github.com/leanprover-community/mathlib4/blob/f2eace05e038fd0f6da83e3604db037040d89d54/Mathlib/Analysis/NormedSpace/Dual.lean) contained an appropriate amount of detail in my opinion. Copying the authorship from there would also seem appropriate at least unless the contents substantially change or are expanded.

File: Mathlib/Topology/Algebra/Module/Dual.lean (hunk 3 above)
Comment (mcdoll) [reply Mathlib/Topology/Algebra/Module/Dual.lean:36]: I think the topological dual is more meaningful than the algebraic one. However, it would be the least confusing if both are not in the root namespace and have an indication which one they are.

File: Mathlib/Topology/Algebra/Module/Dual.lean (hunk 4 above)
Comment (mcdoll) [reply Mathlib/Topology/Algebra/Module/Dual.lean:10]: I wrote a bit in the module docstring. I added you to the list of authors as well since I took the content from the `WeakDual`-file

File: Mathlib/Topology/Algebra/Module/Dual.lean [hunk 5]
```diff
@@ -0,0 +1,75 @@
...
+
+In a topological vector space `E` the topological dual `TopologicalSpace.Dual 𝕜 E` is the space of
+all continuous linear functions into `𝕜`, `E →L[𝕜] 𝕜`. We define the as an abbreviation, so that it
+automatically inherits the strong topology (the topology of bounded convergence). In particular, if
+`E` is a normed space, then `TopologicalSpace.Dual 𝕜 E` is a normed space as well.
+
+## Main definitions
+
+* `TopologicalSpace.Dual`: abbreviation for `E →L[𝕜] 𝕜`.
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/Dual.lean:19]: I really don't love this renaming. It's not the dual of a topological space, it's the dual of a topological *vector* space. How about `ContinuousLinearMap.Dual`? It's not perfect either, but I think it captures things better. And probably you'll want that namespace open when working with this anyway.

Same comments apply to the other definitions moved into this namespace.

**Review by j-loreaux — COMMENTED** [review]
I think this looks mostly good, but the diff is hard to read in some places (unavoidable).

Did we have any discussion on Zulip about making these reducible? It would be good to know if there is agreement on this, although it makes sense to me at first glance.

**Comment by mcdoll** [comment]
If `WeakSpace` and `WeakDual` are not reducible, then we have to copy all the instances again making the general type synonym somewhat useless.

File: Mathlib/Analysis/NormedSpace/WeakDual.lean [hunk 6]
```diff
@@ -29,15 +29,15 @@ topology.
...
-  data).
+  `ContinuousLinearMap.Dual 𝕜 E` to `WeakDual 𝕜 E` (same as `NormedSpace.Dual.toWeakDual`
+  but different bundled data).
 
 ## Main results
 
-The first main result concerns the comparison of the operator norm topology on `dual 𝕜 E` and the
-weak-* topology on (its type synonym) `WeakDual 𝕜 E`:
+The first main result concerns the comparison of the operator norm topology on
+`ContinuousLinearMap.Dual 𝕜 E` and the weak-* topology on (its type synonym) `WeakDual 𝕜 E`:
```
Comment (kkytola) [inline Mathlib/Analysis/NormedSpace/WeakDual.lean:40]:
```suggestion
```

This sentence in the module docstring seems to have become weird, due to the addition of Banach-Alaoglu. I suggest simply removing it.

**Review by kkytola — APPROVED** [review]
LGTM. Thank you!

File: Mathlib/Topology/Algebra/Module/Dual.lean (hunk 5 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Module/Dual.lean]: And what about `Topology.Dual`? If you don't like it I'm fine with `ContinuousLinearMap` as well, and we can always change it later.

File: Mathlib/Analysis/LocallyConvex/Polar.lean [hunk 7]
```diff
@@ -5,8 +5,8 @@ Authors: Moritz Doll, Kalle Kytölä
 -/
 import Mathlib.Algebra.EuclideanDomain.Instances
 import Mathlib.Analysis.Normed.Field.Basic
-import Mathlib.LinearAlgebra.SesquilinearForm
 import Mathlib.Topology.Algebra.Module.WeakDual
+import Mathlib.Analysis.NormedSpace.Basic
```
Comment (ADedecker) [inline Mathlib/Analysis/LocallyConvex/Polar.lean:9]: Aren't we supposed to put the imports in alphabetical order? I can never remember.

File: Mathlib/Analysis/NormedSpace/WeakDual.lean [hunk 8]
```diff
@@ -29,15 +29,13 @@ topology.
...
 * `NormedSpace.Dual.continuousLinearMapToWeakDual`: A continuous linear mapping from
-  `Dual 𝕜 E` to `WeakDual 𝕜 E` (same as `NormedSpace.Dual.toWeakDual` but different bundled
-  data).
+  `ContinuousLinearMap.Dual 𝕜 E` to `WeakDual 𝕜 E` (same as `NormedSpace.Dual.toWeakDual`
+  but different bundled data).
 
 ## Main results
 
-The first main result concerns the comparison of the operator norm topology on `dual 𝕜 E` and the
-weak-* topology on (its type synonym) `WeakDual 𝕜 E`:
```
Comment (ADedecker) [inline Mathlib/Analysis/NormedSpace/WeakDual.lean:40]: Did you mean to delete this comment ? It seems still relevant, although maybe a bit useless.

File: Mathlib/Topology/Algebra/Module/WeakDual.lean [hunk 9]
```diff
@@ -81,7 +76,6 @@ def WeakBilin [CommSemiring 𝕜] [AddCommMonoid E] [Module 𝕜 E] [AddCommMono
 
 namespace WeakBilin
 
--- Porting note: the next two instances should be derived from the definition
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Module/WeakDual.lean:84]: I think this is still relevant ? As in, one could want to use `deriving` ?

**Review by ADedecker — APPROVED** [review]
Thanks!

bors d+
